US06362177B1
A mixture of (R)-3-amino-1-(4-chlorobenzyl)pyrrolidine dihydrochloride (4.54 g, 16.0 mmol), 2 N NaOH solution (80 mL), and ethyl acetate (80 mL) was shaken, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate (80 mL×2). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and evaporated to give free (R)-3-amino-1-(4-chlorobenzyl)pyrrolidine (3.35 g, 99%).

reactant | (R)-3-amino-1-(4-chlorobenzyl)pyrrolidine dihydrochloride | 16.0 mmol, 4.54 g | Cl.Cl.N[C@H]1CN(CC1)CC1=CC=C(C=C1)Cl
reactant | NaOH | 2 N, 80 mL | [OH-].[Na+]
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-amino-1-(4-chlorobenzyl)pyrrolidine | 3.35 g, 99% | N[C@H]1CN(CC1)CC1=CC=C(C=C1)Cl | C11H15ClN2
